US07238716B2
To a mixture of methyl 2-[4-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate (0.55 g), tetrahydrofuran (3 mL) and methanol (3 mL) was added a 1N aqueous sodium hydroxide solution (2.5 mL) and the mixture was stirred at room temperature for 2 hrs. 1N Hydrochloric acid and water were added to acidify the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give crystals (0.45 g, 87%) of 2-[4-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid. Recrystallization from tetrahydrofuran-hexane gave colorless prism crystals. melting point: 166-167° C.

reactant | methyl 2-[4-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetate | 0.55 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=CC=C(C=C2)CC(=O)OC)C=C1 | C27H25NO5
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 2.5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 2-[4-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid | 0.45 g, 87% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=CC=C(C=C2)CC(=O)O)C=C1 | C26H23NO5
